US07420090B2
This Example describes the preparation of 2-(3,5-dichlorophenoxy)-N-(6-methyl-1-methylsulfonyl-hept-4-yn-6-yl) butyramide (Compound No. 4 in Table 55)
To a stirred solution of 2-(3,5-dichlorophenoxy)-N-(6-methyl-1-methylsulphinyl-hept-4-yn-6-yl) butyramide (0.10 g) in dichloromethane (5 ml) at 0° C. was added 3-chloroperbenzoic acid (0.060 g, 70%, stabilised with water). The mixture was stirred for 0.5 hours at 0° C., then for 1 hour at ambient temperature and stored for 18 hours. The solvent was evaporated under reduced pressure and the residue dissolved in diethyl ether, washed with a saturated aqueous solution of sodium hydrogen carbonate (three times) and water (twice), dried over magnesium sulphate and then evaporated under reduced pressure to give a colourless oil. The oil was fractionated by chromatography (silica; hexane/ethyl acetate, 2:1 by volume) to give the required product as a pale yellow oil, 0.040 g, 1H NMR (CDCl3) δ: 0.98-1.02(3H, t); 1.56(3H, s); 1.58(3H, s); 1.92-2.00(4H, m); 2.36-2.40((2H, t); 2.96(3H, s); 3.22-3.26(2H, m); 4.38-4.42(1H, t); 6.26(1H, s); 6.84(2H, s); 7.02(1H, s).

reactant | 2-(3,5-dichlorophenoxy)-N-(6-methyl-1-methylsulphinyl-hept-4-yn-6-yl) butyramide | 0.10 g | ClC=1C=C(OC(C(=O)NC(C#CCCCS(=O)C)(C)C)CC)C=C(C1)Cl | C19H25Cl2NO3S
reactant | 3-chloroperbenzoic acid | 0.060 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-(3,5-dichlorophenoxy)-N-(6-methyl-1-methylsulfonyl-hept-4-yn-6-yl) butyramide | ClC=1C=C(OC(C(=O)NC(C#CCCCS(=O)(=O)C)(C)C)CC)C=C(C1)Cl | C19H25Cl2NO4S
